US05134128
5-(1-Naphthyl)-pentan-1-ol
A mixture of 5-(1-naphthyl)-4-pentyn-1-ol (500 ng, 2.37 mmol) and 5% palladium on barium sulfate (5 mg) in ethyl ether (30 ml) was stirred at room temperature under a hydrogen atmosphere for two days. Solvent removal, after filtration through celite, gave the title compound as a yellow oil.

reactant | 5-(1-naphthyl)-4-pentyn-1-ol | 2.37 mmol, 500 ng | C1(=CC=CC2=CC=CC=C12)C#CCCCO | C15H14O
solvent | ethyl ether | 30 ml | C(C)OCC | C4H10O
catalyst | palladium on barium sulfate | 5 mg | [Pd] | Pd
product | 5-(1-Naphthyl)-pentan-1-ol | C1(=CC=CC2=CC=CC=C12)CCCCCO | C15H18O
